US06797823B1
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline
Sodium hydride (60 wt %, 0.72 g) was added to dimethyl sulfoxide (10 ml). The mixture was stirred at 50° C. for 30 min and was then cooled to room temperature. 4-Amino-2,3-dimethylphenol hydrochloride (1.55 g) was added to the cooled mixture, and the mixture was stirred at room temperature for 10 min. Next, 4-chloro-6,7-dimethoxyquinoline (1.00 g) was added thereto, and the mixture was stirred at 100° C. overnight. Water was added to the reaction solution, followed by extraction with chloroform. The chloroform layer was then washed with a saturated aqueous sodium hydrogencarbonate solution and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and methanol was added to the residue. The precipitated crystal was collected by suction filtration to give 0.94 g (yield 65%) of the title compound.

reactant | Sodium hydride | 0.72 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | 4-Amino-2,3-dimethylphenol hydrochloride | 1.55 g | Cl.NC1=C(C(=C(C=C1)O)C)C
reactant | 4-chloro-6,7-dimethoxyquinoline | 1.00 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
solvent | Water | O | H2O
product | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline | 0.94 g, yield 65% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(N)C=C1)C)C | C19H20N2O3
